US05028608
A mixture of 2.0 g of 3-iodo-4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidine, 1.2 g. of trimethylsilylacetylene, 0.1 g of palladium chloride, 0.23 g of triphenylphosphine, 0.06 g of cuprous iodide, and 2.6 g of triethylamine in 100 mL of acetonitrile is heated in a sealed tube for 1.5 hours at 50° C. and then at reflux for 3 hours. The solvent is removed under reduced pressure and the residue triturated with 1:1 ethyl acetate:hexanes and filtered. The solid thus collected is dissolved in methylene chloride and this solution is passed through a pad of silica gel eluting with 1% methanol on methylene chloride. The eluate is concentrated to yield 3-trimethylsilylethynyl-4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidine.

reactant | 3-iodo-4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidine | 2.0 g | IN1C=NC=2C(=C1O)C=C(N2)NC(C(C)(C)C)=O | C11H13IN4O2
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | triphenylphosphine | 0.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 2.6 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | palladium chloride | 0.1 g | [Pd](Cl)Cl
product | 3-trimethylsilylethynyl-4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidine | C[Si](C)(C)C#CN1C=NC=2C(=C1O)C=C(N2)NC(C(C)(C)C)=O | C16H22N4O2Si
